US06133271
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)[N+](=O)[O-] | C14H11ClN4O2S
product | 2-(pyrazol-1-yl)-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)[N+](=O)[O-] | C17H14N6O2S
